US06605628B1
5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-iodobenzenesulfonyl)-3-(4-nitrobenzyl)-thiazolidine-2,4-dione
5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-iodobenzenesulfonyl)-thiazolidine-2,4-dione is reacted with 4-nitrobenzyl bromide and potassium carbonate in DMF to give the title compound as a light tan solid, mp 172-175° C.

reactant | 5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-iodobenzenesulfonyl)-thiazolidine-2,4-dione | ClC1=CC=C(C=C1)C#CCCCC1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)I | C20H15ClINO4S2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-iodobenzenesulfonyl)-3-(4-nitrobenzyl)-thiazolidine-2,4-dione | ClC1=CC=C(C=C1)C#CCCCC1(C(N(C(S1)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O)S(=O)(=O)C1=CC=C(C=C1)I | C27H20ClIN2O6S2
